US07501412B2
1-Benzyl-4-(1-oxo-2H-isoquinolin-4-yl)pyridinium bromide (9.0 g) was dissolved in methanol (100 mL), and sodium borohydride (3.7 g) was added in small portions with stirring at room temperature. After the completion of the reaction, the solvent was evaporated. Water was added to the obtained residue, and the mixture was extracted with chloroform. The organic layer was dried over magnesium sulfate, and the solvent was evaporated. Ethyl acetate was added to the obtained residue, and the precipitated crystals were collected by filtration to give 4-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-2H-isoquinolin-1-one (6.5 g).

reactant | 1-Benzyl-4-(1-oxo-2H-isoquinolin-4-yl)pyridinium bromide | 9.0 g | [Br-].C(C1=CC=CC=C1)[N+]1=CC=C(C=C1)C1=CNC(C2=CC=CC=C12)=O
reactant | sodium borohydride | 3.7 g | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 4-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-2H-isoquinolin-1-one | 6.5 g | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CNC(C2=CC=CC=C12)=O | C21H20N2O
